US05750530
Preparation of 5-(2-Dimethylaminoethylthio)-2-thiophenecarboxaldehyde
2-dimethylaminoethanethiol hydrochloride (1.85 g, 13.09 mmol) was suspended in dry DMSO and sodium hydride (60% dispersed in mineral oil, 1.10 g, 2.1 equivs) was added carefully. The reaction mixture was left stirring for 1 hour before 5-bromo-2-thiophenecarboxaldehyde (2.5 g, 1.56 ml, 13.09 mmol) was added. The reaction mixture was then heated to 90° C. under nitrogen.

reactant | 2-dimethylaminoethanethiol hydrochloride | 13.09 mmol, 1.85 g | Cl.CN(CCS)C
reactant | sodium hydride | 1.10 g | [H-].[Na+]
reactant | 5-bromo-2-thiophenecarboxaldehyde | 13.09 mmol, 1.56 ml, 2.5 g | BrC1=CC=C(S1)C=O | C5H3BrOS
solvent | DMSO | CS(=O)C | C2H6OS
product | 5-(2-Dimethylaminoethylthio)-2-thiophenecarboxaldehyde | CN(CCSC1=CC=C(S1)C=O)C | C9H13NOS2
